US04032322
A solution of 191.3 g of 3-chloro-2-cyano-4-methyl- 2-pentenenitrile in 300 ml of ethanol was added slowly, maintaining the temperature below 40°, during 1.3 hours, to a mixture of 800 ml of concentrated ammonium hydroxide and 1000 ml of ethanol. The mixture was stirred for 3 hours, then poured over 2000 ml of ice. The solid was collected, washed with water and dried to obtain 122.0 g of 3-amino-2-cyano-4-methyl-2-pentenenitrile, mp 186°-188°.

reactant | 3-chloro-2-cyano-4-methyl- 2-pentenenitrile | 191.3 g | ClC(=C(C#N)C#N)C(C)C | C7H7ClN2
reactant | ammonium hydroxide | 800 ml | [OH-].[NH4+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 3-amino-2-cyano-4-methyl-2-pentenenitrile | 122.0 g | NC(=C(C#N)C#N)C(C)C | C7H9N3
